US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfamide
To a solution of tert-butanol (13 mg, 0.18 mmol) in DCM (5 mL) was added chlorosulfonylisocyanate (25 mg, 0.18 mmol) at 0° Celsius. The resulting solution containing N-(tert-butoxycarbonyl)sulfamoyl chloride was added to a reaction flask containing 5-(2′-amino-3-fluorobiphenyl-4-yl)pyrazin-2-amine (50 mg, 0.18 mmol) and triethylamine (36 mg, 0.36 mmol) in anhydrous DCM (10 mL) at 0° Celsius. The mixture was warmed to rt, stirred 2 hours, then concentrated to dryness, re-dissolved in TFA/DCM (5 mL/5 mL), stirred at rt for 1 hour, and concentrated to dryness. The residue was diluted with water (10 mL) and saturated NaHCO3(aq) (10 mL), extracted with DCM (10 mL×3) and the combined organic extracts washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by HPLC to give the title compound (10 mg, 16%). MS (ESI): mass calcd. for C16H14FN5O2S, 359.09; m/z found, 360.0 [M+H]+; 1H NMR (300 MHz, DMSO-d6) δ 8.39 (s, 1H), 8.33 (s, 1H), 8.04 (d, J=1.3, 1H), 7.91 (m, 1H), 7.63 (d, J=7.8, 1H), 7.44-7.22 (m, 4H), 7.24 (m, 1H), 7.05 (s, 2H), 6.70 (s, 2H).

reactant | tert-butanol | 0.18 mmol, 13 mg | C(C)(C)(C)O | C4H10O
reactant | chlorosulfonylisocyanate | 0.18 mmol, 25 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | N-(tert-butoxycarbonyl)sulfamoyl chloride | C(C)(C)(C)OC(=O)NS(=O)(=O)Cl | C5H10ClNO4S
reactant | 5-(2′-amino-3-fluorobiphenyl-4-yl)pyrazin-2-amine | 0.18 mmol, 50 mg | NC1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C16H13FN4
reactant | triethylamine | 0.36 mmol, 36 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfamide | 10 mg, 16% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)N)F | C16H14FN5O2S
